US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-4-(dimethylamino)-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (E31)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (1.0 g, 2.65 mmol) and a saturated solution of dimethylamine in THF (13 ml) in toluene/DMF (2:1; 15 ml) according to method 8b described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | 2.65 mmol, 1.0 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)O)=O | C21H20N4O3
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 13 ml | C1CCOC1 | C4H8O
solvent | toluene DMF | 15 ml | C1(=CC=CC=C1)C.CN(C)C=O
product | 1-(1H-Benzo[d]imidazol-5-yl)-4-(dimethylamino)-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=CC=C(C=C2)N2CCOCC2)N(C)C)=O | C23H25N5O2
